US08247403B2
9-[(1E)-3-methoxypropa-1-ene-1-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-[(1E)-3-methoxypropa-1-ene-1-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (90.0 mg, 0.282 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (2 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (60.0 mg, 83.4%) as a solid.

reactant | tert-butyl 9-[(1E)-3-methoxypropa-1-ene-1-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.282 mmol, 90.0 mg | COC/C=C/C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H25NO4
reactant | hydrogen chloride-ethyl acetate | 4N, 2 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-[(1E)-3-methoxypropa-1-ene-1-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 60.0 mg, 83.4% | Cl.COC/C=C/C1=CC=CC=2CNCCOC21 | InChI=1S/C13H17NO2.ClH/c1-15-8-3-6-11-4-2-5-12-10-14-7-9-16-13(11)12;/h2-6,14H,7-10H2,1H3;1H/b6-3+;
